US07626056B2
1-(cyclopropyl-hydroxy-methyl)-4-cyclopropylmethanesulfonyl-cyclohexanecarbonitrile
To a stirred solution of 1-(cyclopropyl-hydroxy-methyl)-4-cyclopropylmethylsulfanyl-cyclohexanecarbonitrile (1.93 g; 7.27 mmol) in acetone (15 ml) was added a slurry of oxone (13.4 g; 21.8 mmol) in water (10 ml). The mixture was heated at 60° C. for 1 hour then allowed to cool to room temperature. Water (50 ml) was added and the pH was adjusted to 7 with 2 M sodium carbonate solution. The mixture was extracted with EtOAc (80 ml) and DCM 950 ml). The combined organics were dried (MgSO4) and evaporated in vacuo to give the product as a white solid (1.9015 g). 1H NMR (400 MHz, DMSO): δ 5.36 (1H, d, J 5.0), 3.11-3.05 (3H, m), 2.78 (1H, dd, J 4.8, 7.8), 2.26-2.20 (1H, m), 2.14-2.08 (3H, m), 1.67-1.43 (4H, m), 1.08-0.84 (2H, m), 0.62-0.58 (2H, m), 0.53-0.49 (1H, m), 0.46-0.30 (5H, m). m/z=320 (M+Na+).

reactant | 1-(cyclopropyl-hydroxy-methyl)-4-cyclopropylmethylsulfanyl-cyclohexanecarbonitrile | 7.27 mmol, 1.93 g | C1(CC1)C(C1(CCC(CC1)SCC1CC1)C#N)O | C15H23NOS
reactant | oxone | 21.8 mmol, 13.4 g | OOS(=O)[O-].[K+]
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | Water | 50 ml | O | H2O
product | 1-(cyclopropyl-hydroxy-methyl)-4-cyclopropylmethanesulfonyl-cyclohexanecarbonitrile | 1.9015 g | C1(CC1)C(C1(CCC(CC1)S(=O)(=O)CC1CC1)C#N)O | C15H23NO3S
